US04476308
Preparation of (R/S)-N-[2-(diethylamino)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamid
3.0 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate and 3.7 g of 2-(diethylamino)ethylamine are heated to 95°-100° for 3.5 hours under nitrogen. The mixture is chromatographed on 45 g of aluminum oxide (neutral,activity grade III). The crude (R/S)-N-[2-(diethylamino)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide which is eluted with methylene chloride and ethyl acetate is again chromatographed on 25 g of aluminum oxide (neutral, activity grade III). The product which is eluted with ethyl acetate and ethanol is distilled in a bulb-tube at about 250°/0.03 mmHg.

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 3.0 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | 2-(diethylamino)ethylamine | 3.7 g | C(C)N(CCN)CC | C6H16N2
product | (R/S)-N-[2-(diethylamino)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamid | C(C)N(CCNC(CN1C(C(CC1)O)=O)=O)CC | C12H23N3O3
